US04431653
The solution of 4-[3-(2-hydroxymethyl-1H-imidazol-1-yl)propyl]-1-piperidine carboxaldehyde in acetone (63 ml) was cooled to 0° C. and potassium permanganate (5.5 g, 0.035 M) was added portionwise. After complete addition, the reaction was stirred at 0° C. for 2 hrs. The acetone solution was separated by filtration, and the residue was stirred twice with water (50 ml). The aqueous solution was freeze dried to yield 4-[3-(2-carboxy-1H-imidazol-1-yl)propyl]-1-piperidine carboxaldehyde (5.5 g, 83% yield). This product (7.1 g, 0.027 M) in water (26 ml) and 1 N NaOH (26 ml) was heated at 100° C. for 5 hrs. The reaction was adjusted pH 6 and purified on ion-exchange column (Bio-Rex 70) eluted with 0.01 N, 0.02 N, 0.04 N, 0.08 N and 0.1 N HCl solution successively to give 1-[3-(4-piperidinyl)propyl]-1H-imidazole-2-carboxylic acid 1.75 molar hydrochloride 0.65 molar hydrate (4.6 g, 73% yield).

reactant | 4-[3-(2-hydroxymethyl-1H-imidazol-1-yl)propyl]-1-piperidine carboxaldehyde | OCC=1N(C=CN1)CCCC1CCN(CC1)C=O | C13H21N3O2
reactant | potassium permanganate | 0.035 M, 5.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 63 ml | CC(=O)C | C3H6O
product | 4-[3-(2-carboxy-1H-imidazol-1-yl)propyl]-1-piperidine carboxaldehyde | 5.5 g, 83% yield | C(=O)(O)C=1N(C=CN1)CCCC1CCN(CC1)C=O | C13H19N3O3
